US09334279B2
To a 2 dram vial equipped with a stir bar was added 2,4-dichloro-6-(4-isopropoxyphenyl)pyridine (50 mg, 0.18 mmol), 2-methoxy-6-(tributylstannyl)pyridine (701 mg, 0.178 mmol), CuI (9 mg, 0.05 mmol), CsF (82 mg, 0.54 mmol), and Pd(PPh3)4 (10 mg, 8.9 μmol). The vial was sealed with a septum screw-cap and then placed under N2 atmosphere. To the vial was added degassed DMF (1 mL). The vial was placed in a 80° C. heating block with stirring for 1 hour. The reaction mixture was allowed to cool to room temperature and was then directly purified via C18 chromatography (water:MeOH w/0.1% TFA) to afford 4-chloro-6-(4-isopropoxyphenyl)-6′-methoxy-2,2′-bipyridine as a dark solid (58 mg, 92%). 1H-NMR (500 MHz, CDCl3) 8.29 (d, J=1.7 Hz, 1H), 8.21 (dd, J=7.4, 0.5 Hz, 1H), 8.09-8.04 (m, 2H), 7.74 (t, J=7.8 Hz, 1H), 7.67 (d, J=1.7 Hz, 1H), 7.03-6.99 (m, 2H), 6.82 (dd, J=8.2, 0.5 Hz, 1H), 4.66 (spt, J=6.1 Hz, 1H), 4.08 (s, 3H), 1.40 (d, J=6.0 Hz, 6H); MS: MS m/z 355.2 (M++1).

reactant | 2,4-dichloro-6-(4-isopropoxyphenyl)pyridine | 0.18 mmol, 50 mg | ClC1=NC(=CC(=C1)Cl)C1=CC=C(C=C1)OC(C)C | C14H13Cl2NO
reactant | 2-methoxy-6-(tributylstannyl)pyridine | 0.178 mmol, 701 mg | COC1=NC(=CC=C1)[Sn](CCCC)(CCCC)CCCC
reactant | CsF | 0.54 mmol, 82 mg | [F-].[Cs+]
catalyst | CuI | 0.05 mmol, 9 mg | [Cu]I
catalyst | Pd(PPh3)4 | 8.9 μmol, 10 mg | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | 4-chloro-6-(4-isopropoxyphenyl)-6′-methoxy-2,2′-bipyridine | 58 mg, 92% | ClC1=CC(=NC(=C1)C1=CC=C(C=C1)OC(C)C)C1=NC(=CC=C1)OC | C20H19ClN2O2
